US05314889
2-[(2-Indolyl)carbonylamino]-5-methoxy-4-phenylthiazole
3.15 g of 2-amino-5-methoxy-4-phenylthiazole are dissolved in 60 ml of CH2Cl2. 3.26 g of 1-acetylindole-2-carboxylic acid, 8.12 g of BOP and 1.86 g of triethylamine are added, and the reaction mixture is stirred at room temperature for one week. 50 ml of water are added and the organic phase is decanted, dried over Na2SO4, filtered and concentrated under vacuum. The residue is taken up in 100 ml of methanol, and 10 g of K2CO3 are added and the mixture is stirred overnight at room temperature. The mixture is concentrated under vacuum, and the residue is taken up in water, and the precipitate formed is separated by filtration and washed with CH2Cl2.

reactant | 2-amino-5-methoxy-4-phenylthiazole | 3.15 g | NC=1SC(=C(N1)C1=CC=CC=C1)OC | C10H10N2OS
reactant | 1-acetylindole-2-carboxylic acid | 3.26 g | C(C)(=O)N1C(=CC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | BOP | 8.12 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.86 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2-[(2-Indolyl)carbonylamino]-5-methoxy-4-phenylthiazole | N1C(=CC2=CC=CC=C12)C(=O)NC=1SC(=C(N1)C1=CC=CC=C1)OC | C19H15N3O2S
